US07053212B2
Step A: 2,4,6-Trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[2-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide
To a solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[2-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (0.060 g, 0.19 mmol) in 0.4 mL methylene chloride was added triethylamine (0.06 mL, 0.43 mmol) and 2-mesitylene sulfonyl chloride (0.066 g, 0.30 mmol). The reaction mixture was stirred at room temperature for 24 hr. PS-isocyanate resin (0.050 g), PS-trisamine resin (0.050 g), and 1.5 mL methylene chloride were added and the mixture was stirred for 2 hr. at room temperature. The resin was filtered off with the aid of methylene chloride. The filtrate was concentrated. The residue was purified by preparative TLC (1.0 mm silica gel layer, eluting with 10% methanol/methylene chloride) to afford the title compound of Step A (0.039 g). MS 579.3 (M+1)+

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[2-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.19 mmol, 0.060 g | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=C(C=CC=C1)OC1OCCCC1 | C24H32N2O3
reactant | triethylamine | 0.43 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylene sulfonyl chloride | 0.30 mmol, 0.066 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | isocyanate | 0.050 g | [N-]=C=O
reactant | trisamine | 0.050 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | methylene chloride | 0.4 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 2,4,6-Trimethyl-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-N-[2-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 0.039 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N(CC1=C(C=CC=C1)OC1OCCCC1)C1=CC=C(C=C1)OCCN1CCCC1 | C33H42N2O5S
